US05521173
4'-(2-Propenyloxy)-[1,1'-biphenyl]-4-carboxylic Acid Ethyl Ester
A mixture of 10.0 g of 4'-hydroxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester is dissolved in 100 ml of acetone and 8.02 g of allyl bromide added under a nitrogen atmosphere. While stirring 15.0 g of potassium carbonate is added and the reaction mixture refluxed for 16 hours. The reaction mixture is cooled to 0° C. and poured into 200 ml of ice-water and extracted with chloroform (3×150 ml). The combined extracts are washed with 1N HCl and water, dried (Na2SO4) and evaporated in vacuo to give 12.0 g of the desired product m.p. 89°-92° C. M+H=283.

reactant | 4'-hydroxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester | 10.0 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C15H14O3
reactant | allyl bromide | 8.02 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 15.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4'-(2-Propenyloxy)-[1,1'-biphenyl]-4-carboxylic Acid Ethyl Ester | 12.0 g | C(C)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC=C | C18H18O3
